US06482990B1
To a mixture of powder Molecular Sieves 4A (8.2 g), titanium tetraisopropoxide (5.1 ml) and methylene chloride (125 ml) was added dropwise diisopropyl L-(+)-tartrate (4.4 ml) under an argon stream at −20° C., followed by stirring under the same conditions for 30 minutes. Then, a methylene chloride solution (41 ml) of the compound obtained in the above (2) (13.9 g) was added and stirred at −20° C. for an hour. The mixture was cooled to −30° C., and tert-butyl hydroperoxide (3.2 M, methylene chloride solution, 48.3 ml) was added dropwise over 30 minutes. After the completion of the addition, stirring was continued at −20° C. for 18 hours, and dimethyl sulfide (14 ml) was added, followed by stirring at the same temperature for 3 hours. Then, an aqueous tartaric acid solution (10%, 9.3 ml) was added, successively followed by stirring at room temperature for an hour, addition of sodium fluoride (60 g), stirring for an hour, addition of Celite (34 g) and diethyl ether (96 ml), and stirring for an hour. Filtration and concentration gave an oily substance (41.9 g), which was then dissolved in diethyl ether (109 ml), and an aqueous sodium hydroxide solution (1N, 60 ml) was added, followed by stirring at room temperature for 1.5 hours. The organic layer was separated, the aqueous layer was extracted with diethyl ether, and the organic layers were combined, washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The resulting residue was purified by a silica gel column chromatography (developing solvent; hexane:ethyl acetate=1:1) to give (2S,3S)-2,3-epoxy-5-phenyl-1-pentanol (14.2 g).

reactant | tert-butyl hydroperoxide | 3.2 M, 48.3 ml | C(C)(C)(C)OO | C4H10O2
reactant | dimethyl sulfide | 14 ml | CSC | C2H6S
reactant | tartaric acid | 9.3 ml | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | sodium fluoride | 60 g | [F-].[Na+]
reactant | sodium hydroxide | 1N, 60 ml | [OH-].[Na+]
reactant | diethyl ether | 109 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 96 ml | C(C)OCC | C4H10O
product | (2S,3S)-2,3-epoxy-5-phenyl-1-pentanol | 14.2 g | O1[C@@H](CO)[C@@H]1CCC1=CC=CC=C1 | C11H14O2
